US08378104B2
Step C: 3-{4-[1-(1-acetylpiperidin-4-yl)-1H-pyrazol-4-yl]-7-aminofuro[2,3-c]pyridin-2-yl}-1H-indole-6-carbonitrile (Title Compound)
The title compound was prepared in 60% yield from 1-{4-[4-(7-amino-2-chloro-furo[2,3-c]pyridin-4-yl)-4,5-dihydro-pyrazol-1-yl]-piperidin-1-yl}ethanone and 3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole-6-carbonitrile by a procedure analogous to Example 213. 1H NMR (600 MHz, CD3OD): δ 1.99-2.02 (m, 2H), 2.12 (s, 3H), 2.14-2.24 (m, 2H), 2.84-2.88 (m, 1H), 3.29-3.38 (m, 1H), 4.07-4.11 (m, 1H), 4.52-4.54 (m, 1H), 4.67-4.70 (m, 1H), 7.25 (s, 1H), 7.51 (d, J=7.8 Hz, 1H), 7.84 (s, 1H), 7.89 (s, 1H), 7.92 (s, 1H), 8.15 (s, 1H), 8.25 (s, 1H), 8.39 (d, J=8.0 Hz, 1H); MS (ESI): 466 [M+H]+.

reactant | 1-{4-[4-(7-amino-2-chloro-furo[2,3-c]pyridin-4-yl)-4,5-dihydro-pyrazol-1-yl]-piperidin-1-yl}ethanone | NC=1N=CC(=C2C1OC(=C2)Cl)C2C=NN(C2)C2CCN(CC2)C(C)=O | C17H20ClN5O2
reactant | 3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole-6-carbonitrile | CC1(OB(OC1(C)C)C1=CNC2=CC(=CC=C12)C#N)C | C15H17BN2O2
product | 3-{4-[1-(1-acetylpiperidin-4-yl)-1H-pyrazol-4-yl]-7-aminofuro[2,3-c]pyridin-2-yl}-1H-indole-6-carbonitrile | 60% yield | C(C)(=O)N1CCC(CC1)N1N=CC(=C1)C1=C2C(=C(N=C1)N)OC(=C2)C2=CNC1=CC(=CC=C21)C#N | C26H23N7O2
